US06770665B2
3-(2-Chloro-6-fluorophenyl)-5-[3-methyl-4-bromo-5-(4-trifluoromethoxyphenyl) 2-thienyl]-1-ethyl-[1,2,4]-triazole
Methyl-N-{[3-methyl-4-bromo-5-(4-trifluoromethoxyphenyl)-2-thienyl]-carbonyl}-2-fluoro-6-chlorobenzenecarbimidothioate (0.85 g, 1.5 mmol) and ethylhydrazine oxalate (0.90 g, 6 mmol) were combined in toluene (5 mL) and stirred 64 h at 25° C. and heated to reflux for 18 h. The reaction mixture was diluted with ether and washed with 0.1 M hydrochloric acid and brine, dried over anhydrous magnesium sulfate and concentrated to a crude pale yellow oil. Chromatography (silica gel, 10% ethylacetate/hexane) afforded the product as a clear oil (0.250 mg, 30%): 1H NMR (CDCl3) δ 7.73 (2H, d), 7.0-7.5 (5H, m), 4.3 (2H, q), 2.40 (3H, s), 1.55 (3H, t); EI/MS 546 m/e (M+).

reactant | Methyl-N-{[3-methyl-4-bromo-5-(4-trifluoromethoxyphenyl)-2-thienyl]-carbonyl}-2-fluoro-6-chlorobenzenecarbimidothioate | 1.5 mmol, 0.85 g | CSC(=NC(=O)C=1SC(=C(C1C)Br)C1=CC=C(C=C1)OC(F)(F)F)C1=C(C=CC=C1Cl)F | C21H13BrClF4NO2S2
reactant | ethylhydrazine oxalate | 6 mmol, 0.90 g | C(C(=O)O)(=O)O.C(C)NN
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | 3-(2-Chloro-6-fluorophenyl)-5-[3-methyl-4-bromo-5-(4-trifluoromethoxyphenyl) 2-thienyl]-1-ethyl-[1,2,4]-triazole | 0.250 mg, 30% | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C=1SC(=C(C1C)Br)C1=CC=C(C=C1)OC(F)(F)F)CC | C22H15BrClF4N3OS
